US05763552
A 500 mL flask was charged with potassium fluoride (17.5 g, 0.31 mol) and absolute ethanol (110 mL), and was cooled in an ice-water bath. 2-iodo-hexafluoropropyl fluorosulfate (112.8 g, 0.3 mol) was added slowly. The reaction was exothermic and the reaction temperature was controlled at 20°-25° C. After addition was complete, the reaction mixture was heated at 70° C. for 4 hr and then poured into cold water. The bottom organic layer was separated, washed with saturated NaCl aqueous solution and dried over MgSO4. Evaporation of the solvent in vacuo followed by distillation gave 50 g (56% yield) of ethyl 2-iodotetrafluoropropionate product, formula above, having a boiling point of 60°-65° C. at 50 mmHg.

reactant | potassium fluoride | 0.31 mol, 17.5 g | [F-].[K+]
reactant | ethanol | 110 mL | C(C)O | C2H6O
reactant | 2-iodo-hexafluoropropyl fluorosulfate | 0.3 mol, 112.8 g | S(=O)(=O)(OC(C(C(F)(F)F)(I)F)(F)F)F | C3F7IO3S
solvent | water | O | H2O
product | ethyl 2-iodotetrafluoropropionate | 50 g, 56% yield | IC(C(=O)OCC)(C(F)(F)F)F | C5H5F4IO2
